US09085555B2
D. (1R,3S,5R)-2-[2-(3-Carbamoyl-indazol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid
(1R,3S,5R)-2-[2-(3-carbamoyl-indazol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester (3.9 g, 8.85 mmol) was dissolved in THF (120 mL) and EtOAc (120 mL). Air was removed from the flask and replaced with nitrogen three times. Pd/C 10% (390 mg) was added to the solution which was again degassed, placed under a hydrogen atmosphere, and stirred at RT for 4 h. The catalyst was removed through a pad of Celite and washed with EtOAc. Solvents were removed under reduced pressure and the foam thus obtained was used without further purification in the next step. MS (LCMS): 346.2 [M+NH4]+, 327.1 [M−H]−; tR (HPLC conditions f): 1.12 min.

reactant | (1R,3S,5R)-2-[2-(3-carbamoyl-indazol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester | 8.85 mmol, 3.9 g | C(C1=CC=CC=C1)OC(=O)[C@H]1N([C@@H]2C[C@@H]2C1)C(CN1N=C(C2=CC=CC=C12)C(N)=O)=O | C23H22N4O4
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 120 mL | CCOC(=O)C | C4H8O2
product | (1R,3S,5R)-2-[2-(3-Carbamoyl-indazol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid | C(N)(=O)C1=NN(C2=CC=CC=C12)CC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)O | C16H16N4O4
